Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]([O:5][O:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.85858615504
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],4.3031196659
[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-4.30365752583
[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.979890033459999
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-2.29092743241
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],1.83921937007
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8],4.14908902925
[H:10].[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8][H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-5.19944788626
[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[O:3]=[C:4][O:5][C:6]([H:7])([H:8])[H:9],2.42503401532
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7][H:8]>>[H:6].[O:1]=[C:2]([O:3][H:4])[C:5]#[C:7][H:8],2.09476254823
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.52953950833
[H:1].[O:2][C@@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.64469963732
[H:6].[O:1]=[C:2]=[C:3]([H:4])/[C:5]=[C:7](/[H:8])[O:9][H:10]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-4.69773559289
[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1([H:12])[H:13],-2.1029479167700003
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],1.3944276615200002
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])[C:4]#[C:5][H:6].[H:7],4.1470832328
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7](=[O:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[O:6][C:7]1[C:8]([H:9])([H:10])[H:11],1.49789607446
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([O:4][C:5][H:6])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-3.92659031801
[C:1]/[C:2]([O:3][H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],3.5627677390800003
[H:1]/[C:3](=[C:2]\[C:8]([H:9])([H:10])[H:11])[O:4][C:5]#[C:7][H:6]>>[H:1][c:2]1[c:3][o:4][c:5]([H:6])[c:7]1[C:8]([H:9])([H:10])[H:11],-2.41415305862
[C:1]#[C:2].[C:3]([H:4])([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.72631977559
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:5]([H:6])([H:7])[O:8][C:9][H:10].[O:1]=[C:2]([H:3])[H:4],0.783695360001
[H:8].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.34555426989
[C:3][O:4][H:5].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][O:4][H:5],-1.5826724399599998
[C:1]#[C:2][C:5]([H:6])=[C:7]([H:8])[H:9].[C:3]#[C:4]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-7.30148254661
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],3.69448122111
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.63643455192
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.30883371203
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.18601054355
[C:1][C:2][O:3].[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.45457275606
